US06281356B1
3-(1-Methyl-6-morpholin-4-yl-1H-indol-3-yl)-4-(1-methyl-6-trifluoromethyl-1H-indol-3-yl)pyrrole-2,5-dione (151 mg, 54%) was prepared from methyl (1-methyl-6-trifluromethyl-1H-indol-3-yl)glyoxylate (172 mg, 0.60 mmol) and (1-methyl-6-morpholin-4-yl-1H-indol-3-yl)acetamide (150 mg, 0.55 mmol).

reactant | methyl (1-methyl-6-trifluromethyl-1H-indol-3-yl)glyoxylate | 0.60 mmol, 172 mg | CN1C=C(C2=CC=C(C=C12)C(F)(F)F)C(C(=O)OC)=O | C13H10F3NO3
reactant | (1-methyl-6-morpholin-4-yl-1H-indol-3-yl)acetamide | 0.55 mmol, 150 mg | CN1C=C(C2=CC=C(C=C12)N1CCOCC1)CC(=O)N | C15H19N3O2
product | 3-(1-Methyl-6-morpholin-4-yl-1H-indol-3-yl)-4-(1-methyl-6-trifluoromethyl-1H-indol-3-yl)pyrrole-2,5-dione | 151 mg, 54% | CN1C=C(C2=CC=C(C=C12)N1CCOCC1)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)C(F)(F)F)C)=O)=O | C27H23F3N4O3
